US08754100B2
Synthesis of tert-butyl N′-[5-chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoyl]hydrazinecarboxylate
5-Chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoic acid (6.2 g), tert-butyl carbazate (4.1 g) and N,N-diisopropylethylamine (10.8 mL) were dissolved in dichloromethane (120 mL). Bis(2-oxo-3-oxazolidinyl)phosphinic acid chloride (7.9 g) was added under ice-cooling. After addition of the reagent, the mixture was brought back to room temperature and stirred overnight. The reaction solution was concentrated under reduced pressure. A sodium bicarbonate solution and tert-butyl methyl ether were added and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration, and then the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (6.1 g). The property values of the compound are as follows.

reactant | 5-Chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoic acid | 6.2 g | ClCCCC(C(=O)O)C1=C(C=C(C(=C1)C(C)C)OC)C | C16H23ClO3
reactant | tert-butyl carbazate | 4.1 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | N,N-diisopropylethylamine | 10.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Bis(2-oxo-3-oxazolidinyl)phosphinic acid chloride | 7.9 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | tert-butyl N′-[5-chloro-2-(5-isopropyl-4-methoxy-2-methylphenyl)pentanoyl]hydrazinecarboxylate | 6.1 g | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=C(C=C(C(=C1)C(C)C)OC)C | C21H33ClN2O4
